### PR TITLE
[Merged by Bors] - feat: range of the continuous functional calculus

### PR DESCRIPTION
**Pull request by j-loreaux**
This shows that the range of the continuous functional calculus is the elemental star algebra generated by the given element.

In addition, we show that `b` commutes with `cfc f a` whenever it commutes with both `a` and `star a`. When `a` is selfadjoint, we can drop the latter hypothesis.

Finally, we also show that the product of nonnegative elements is nonnegative if they commute.

---

- [ ] depends on: #29563

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 1]
```diff
@@ -0,0 +1,296 @@
...
+    cfcHom_apply_mem_elemental ha ⟨_, hf.restrict⟩
+
+variable [T2Space A]
+
+open StarSubalgebra elemental in
+protected theorem Commute.cfcHom {a b : A} (ha : p a) (hb₁ : Commute a b)
+    (hb₂ : Commute (star a) b) (f : C(spectrum 𝕜 a, 𝕜)) :
+    Commute (cfcHom ha f) b :=
+  have hb : b ∈ centralizer 𝕜 {a} := by simpa [mem_centralizer_iff] using ⟨hb₁.eq, hb₂.eq⟩
+  le_centralizer_centralizer 𝕜 a (cfcHom_apply_mem_elemental ha f) b (.inl hb) |>.symm
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]: A note to reviewers: this declaration (as well as the non-unital counterpart, and hence all the `Commute` declarations in this file) require the hypotheses `[ContinuousStar A] [StarModule 𝕜 A]`. This is because the proof makes use of topological star algebras. However, it is possible to avoid these hypotheses at the expense of a longer proof:
```lean
  open scoped ContinuousFunctionalCalculus in
  induction f using ContinuousMap.induction_on_of_compact with
  | const r =>
    conv =>
      enter [1, 2]
      equals algebraMap 𝕜 _ r => rfl
    rw [AlgHomClass.commutes]
    exact Algebra.commute_algebraMap_left r b
  | id => rwa [cfcHom_id ha]
  | star_id => rwa [map_star, cfcHom_id]
  | add f g hf hg => rw [map_add]; exact hf.add_left hg
  | mul f g hf hg => rw [map_mul]; exact mul_left hf hg
  | frequently f hf =>
    change cfcHom ha f ∈ { x | x * b = b * x}
    rw [← (isClosed_eq (by fun_prop) (by fun_prop)).closure_eq]
    apply mem_closure_of_frequently_of_tendsto hf
    exact cfcHom_continuous ha |>.tendsto _
```
However, I argue that making this change is a net negative for Mathlib. Indeed, in all applications, these extra type class assumptions will be satisfied. Therefore, the only benefit of the longer proof arises in general theory about the continuous functional calculus which uses these `Commute` results, and all it really means is that the user has to type slightly more. Moreover, when we get a modified `class abbrev` which allows us to bundle type class collections better, even this argument will fall by the wayside.

That being said, I will abide by the reviewer's preferences.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 2]
```diff
@@ -288,6 +287,13 @@ lemma sqrt_eq_real_sqrt (a : A) (ha : 0 ≤ a := by cfc_tac) :
       ← sqrt_eq_iff _ (hb := cfcₙ_nonneg (fun x _ ↦ Real.sqrt_nonneg x))] at this
   exact cfcₙ_congr fun x hx ↦ Real.mul_self_sqrt <| quasispectrum_nonneg_of_nonneg a ha x hx
 
+lemma _root_.Commute.mul_nonneg [ContinuousConstSMul ℝ A] [StarModule ℝ A] [ContinuousStar A]
+    {a b : A} (hab : Commute a b) (ha : 0 ≤ a := by cfc_tac) (hb : 0 ≤ b := by cfc_tac) :
+    0 ≤ a * b := by
+  rw [← CFC.sqrt_mul_sqrt_self a, CFC.sqrt_eq_real_sqrt a, mul_assoc,
+    ha.isSelfAdjoint.commute_cfcₙ hab Real.sqrt, ← mul_assoc, ← CFC.sqrt_eq_real_sqrt a]
+  exact conjugate_nonneg_of_nonneg hb <| CFC.sqrt_nonneg a
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean]: It's possible to put this earlier, and with fewer type class assumptions as early as `Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Instances` with this proof:
```lean
lemma Commute.mul_nonneg {a b : A} (ha : 0 ≤ a) (hb : 0 ≤ b) (h : Commute a b) :
    0 ≤ a * b := by
  rw [nonneg_iff_isSelfAdjoint_and_quasispectrumRestricts]
  refine ⟨ha.isSelfAdjoint.commute_iff hb.isSelfAdjoint |>.mp h, ?_⟩
  rw [nonneg_iff_isSelfAdjoint_and_quasispectrumRestricts] at hb
  obtain ⟨x, hx₁, hx₂, rfl⟩ := CFC.exists_sqrt_of_isSelfAdjoint_of_quasispectrumRestricts hb.1 hb.2
  have hx := nonneg_iff_isSelfAdjoint_and_quasispectrumRestricts.mpr ⟨hx₁, hx₂⟩
  rw [← mul_assoc, quasispectrumRestricts_iff, quasispectrum.mul_comm,
    ← quasispectrumRestricts_iff, ← mul_assoc]
  exact QuasispectrumRestricts.nnreal_of_nonneg <| conjugate_nonneg_of_nonneg ha hx
```
This uses the existence of nonnegative square root, and the spectral characterization of positivity. It's a cute argument.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 3]
```diff
@@ -0,0 +1,296 @@
+/-
+Copyright (c) 2025 Jireh Loreaux. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jireh Loreaux
+-/
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Instances
+import Mathlib.Topology.ContinuousMap.ContinuousSqrt
+
+/-! # range of the continuous functional calculus
+
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
/-! # Range of the continuous functional calculus

```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 4]
```diff
@@ -0,0 +1,296 @@
...
+-/
+
+open Topology
+
+open scoped CStarAlgebra
+
+section CFCRangeCommute
+
+theorem range_cfc (R : Type*) {A : Type*} {p : A → Prop} [CommSemiring R] [StarRing R]
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]: I would expect `range_cfc` to state that `Set.range (cfc (R := R) · a) = elemental 𝕜 a`; this feels like an intermediate result. Could rename this (maybe `range_cfc_eq_range_cfcHom`?) and add this new `range_cfc`? (And likewise for the non-unital case.)

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean]: I think moving it makes sense, if only because the statement doesn't involve `rpow` or square roots, and so looks odd in this file.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]: I don't have a very strong opinion here; if you didn't already have this other proof it wouldn't be worth spending too much time on this, but since you do have it, why not put it in?

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 5]
```diff
@@ -0,0 +1,296 @@
...
+  simpa using cfcHom_id ha
+
+variable {𝕜}
+
+theorem cfcHom_apply_mem_elemental {a : A} (ha : p a) (f : C(spectrum 𝕜 a, 𝕜)) :
+    cfcHom ha f ∈ elemental 𝕜 a :=
+  range_cfcHom 𝕜 ha ▸ ⟨f, rfl⟩
+
+@[simp]
+theorem cfc_apply_mem_elemental (f : 𝕜 → 𝕜) (a : A) :
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
@[simp, grind ←]
theorem cfc_apply_mem_elemental (f : 𝕜 → 𝕜) (a : A) :
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 6]
```diff
@@ -0,0 +1,296 @@
...
+
+open scoped NNReal
+variable {A : Type*} [Ring A] [StarRing A] [Algebra ℝ A]
+variable [TopologicalSpace A] [StarModule ℝ A] [ContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+variable [ContinuousStar A] [IsTopologicalRing A] [T2Space A]
+
+/-- A version of `Commute.cfc` or `IsSelfAdjoint.commute_cfc` which does not require any interaction
+with `star` when the base ring is `ℝ`. -/
+protected theorem Commute.cfc_real {a b : A} (hb : Commute a b) (f : ℝ → ℝ) :
+    Commute (cfc f a) b :=
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
@[grind ←]
protected theorem Commute.cfc_real {a b : A} (hb : Commute a b) (f : ℝ → ℝ) :
    Commute (cfc f a) b :=
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 7]
```diff
@@ -0,0 +1,296 @@
...
+  cfc_cases (fun x ↦ Commute x b) a f (Commute.zero_left _) fun hf ha ↦ by
+    rw [← cfc_apply ..]
+    exact hb.cfc (ha.star_eq.symm ▸ hb) _
+
+variable [PartialOrder A] [NonnegSpectrumClass ℝ A] [StarOrderedRing A]
+
+/-- A version of `Commute.cfc` or `IsSelfAdjoint.commute_cfc` which does not require any interaction
+with `star` when the base ring is `ℝ≥0`. -/
+protected theorem Commute.cfc_nnreal {a b : A} (hb : Commute a b) (f : ℝ≥0 → ℝ≥0) :
+    Commute (cfc f a) b := by
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
@[grind ←]
protected theorem Commute.cfc_nnreal {a b : A} (hb : Commute a b) (f : ℝ≥0 → ℝ≥0) :
    Commute (cfc f a) b := by
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 8]
```diff
@@ -0,0 +1,296 @@
...
+    (ha' : IsSelfAdjoint a) (hb : Commute a b) (f : C(quasispectrum 𝕜 a, 𝕜)₀) :
+    Commute (cfcₙHom ha f) b :=
+  hb.cfcₙHom ha (ha'.star_eq.symm ▸ hb) f
+
+/-- An element commutes with `cfcₙ f a` if it commutes with both `a` and `star a`.
+
+If the base ring is `ℝ` or `ℝ≥0`, see `Commute.cfcₙ_real` or `Commute.cfcₙ_nnreal` which don't
+require the `Commute (star a) b` hypothesis. -/
+protected theorem Commute.cfcₙ {a b : A} (hb₁ : Commute a b)
+    (hb₂ : Commute (star a) b) (f : 𝕜 → 𝕜) :
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
@[grind ←]
protected theorem Commute.cfcₙ {a b : A} (hb₁ : Commute a b)
    (hb₂ : Commute (star a) b) (f : 𝕜 → 𝕜) :
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 9]
```diff
@@ -0,0 +1,296 @@
...
+open scoped NNReal
+variable {A : Type*} [NonUnitalRing A] [StarRing A] [Module ℝ A] [IsScalarTower ℝ A A]
+  [SMulCommClass ℝ A A] [TopologicalSpace A] [StarModule ℝ A]
+  [NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint] [ContinuousStar A]
+  [IsTopologicalRing A] [T2Space A] [ContinuousConstSMul ℝ A]
+
+/-- A version of `Commute.cfcₙ` or `IsSelfAdjoint.commute_cfcₙ` which does not require any
+interaction with `star` when the base ring is `ℝ`. -/
+protected theorem Commute.cfcₙ_real {a b : A} (hb : Commute a b) (f : ℝ → ℝ) :
+    Commute (cfcₙ f a) b :=
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
@[grind ←]
protected theorem Commute.cfcₙ_real {a b : A} (hb : Commute a b) (f : ℝ → ℝ) :
    Commute (cfcₙ f a) b :=
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 10]
```diff
@@ -0,0 +1,296 @@
...
+    fun hf hf0 ha ↦ by
+      rw [← cfcₙ_apply ..]
+      exact hb.cfcₙ (ha.star_eq.symm ▸ hb) _
+
+variable [PartialOrder A] [NonnegSpectrumClass ℝ A] [StarOrderedRing A]
+
+/-- A version of `Commute.cfcₙ` or `IsSelfAdjoint.commute_cfcₙ` which does not require any
+interaction with `star` when the base ring is `ℝ≥0`. -/
+protected theorem Commute.cfcₙ_nnreal {a b : A} (hb : Commute a b) (f : ℝ≥0 → ℝ≥0) :
+    Commute (cfcₙ f a) b := by
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
@[grind ←]
protected theorem Commute.cfcₙ_nnreal {a b : A} (hb : Commute a b) (f : ℝ≥0 → ℝ≥0) :
    Commute (cfcₙ f a) b := by
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 11]
```diff
@@ -0,0 +1,296 @@
...
+variable {𝕜}
+
+open scoped ContinuousMapZero
+
+theorem cfcₙHom_apply_mem_elemental {a : A} (ha : p a) (f : C(quasispectrum 𝕜 a, 𝕜)₀) :
+    cfcₙHom ha f ∈ elemental 𝕜 a :=
+  range_cfcₙHom 𝕜 ha ▸ ⟨f, rfl⟩
+
+theorem cfcₙ_apply_mem_elemental (f : 𝕜 → 𝕜) (a : A) :
+    cfcₙ f a ∈ elemental 𝕜 a :=
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:132]:
```suggestion
@[simp, grind ←]
theorem cfcₙ_apply_mem_elemental (f : 𝕜 → 𝕜) (a : A) :
    cfcₙ f a ∈ elemental 𝕜 a :=
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 12]
```diff
@@ -0,0 +1,296 @@
...
+protected theorem IsSelfAdjoint.commute_cfcHom {a b : A} (ha : p a)
+    (ha' : IsSelfAdjoint a) (hb : Commute a b) (f : C(spectrum 𝕜 a, 𝕜)) :
+    Commute (cfcHom ha f) b :=
+  hb.cfcHom ha (ha'.star_eq.symm ▸ hb) f
+
+/-- An element commutes with `cfc f a` if it commutes with both `a` and `star a`.
+
+If the base ring is `ℝ` or `ℝ≥0`, see `Commute.cfc_real` or `Commute.cfc_nnreal` which don't require
+the `Commute (star a) b` hypothesis. -/
+protected theorem Commute.cfc {a b : A} (hb₁ : Commute a b)
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
If the base ring is `ℝ` or `ℝ≥0`, see `Commute.cfc_real` or `Commute.cfc_nnreal` which don't require
the `Commute (star a) b` hypothesis. -/
@[grind ←]
protected theorem Commute.cfc {a b : A} (hb₁ : Commute a b)
```
Also, can you add `@[grind =]` to `isSelfAdjoint_iff`? This way we don't need to also tag `IsSelfAdjoint.commute_cfc`.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]: I've used this proof and split these results out into a separate file.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean [hunk 13]
```diff
@@ -70,7 +70,7 @@ theorem cfcₙ_tsub {A : Type*} [TopologicalSpace A] [NonUnitalRing A] [PartialO
   have : (σₙ ℝ a).EqOn (fun x ↦ ((f x.toNNReal - g x.toNNReal : ℝ≥0) : ℝ))
       (fun x ↦ f x.toNNReal - g x.toNNReal) :=
     fun x hx ↦ NNReal.coe_sub <| hfg _ <| ha'.apply_mem hx
-  rw [cfcₙ_nnreal_eq_real, cfcₙ_nnreal_eq_real, cfcₙ_nnreal_eq_real, cfcₙ_congr this]
+  rw [cfcₙ_nnreal_eq_real .., cfcₙ_nnreal_eq_real .., cfcₙ_nnreal_eq_real .., cfcₙ_congr this]
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:73]: about these appearing in the diff: I changed the `a` argument to this lemma to be explicit, which caused this. I *think* this is actually the more principled approach (at least, and it's what we do everywhere else and is the current recommendation), but if you think this is sufficient cause to change it back, I'll do so.

Comment (dupuisf) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:73]: I think it's fine.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Commute.lean [hunk 14]
```diff
@@ -0,0 +1,204 @@
...
+Copyright (c) 2025 Jireh Loreaux. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jireh Loreaux
+-/
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Instances
+
+/-! # Commuting with applications of the continuous functional calculus
+
+This file show that if an element `b` commutes with both `a` and `star a`, then it commutes
+with `cfc f a` (or `cfcₙ f a`). In the case where `a` is selfadjoint, we may reduce the hypotheses.
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Commute.lean]:
```suggestion
This file shows that if an element `b` commutes with both `a` and `star a`, then it commutes
with `cfc f a` (or `cfcₙ f a`). In the case where `a` is selfadjoint, we may reduce the hypotheses.
```

**Review by dupuisf — COMMENTED** [review]
Looks good, thanks!

bors d+

**Comment by j-loreaux** [comment]
bors merge
